US09387204B2
To a solution of tert-butyl 4-[5-(pyridin-2-yl)-1H-1,2,4-triazol-3-yl]piperidine-1-carboxylate 39 g (111 mM) in methanol 50 is added 100 ml solution of HCl in dioxane and stirred at room temperature for 3 hrs. Solid precipitated is then filtered and washed with cold acetonitrile to obtained 2-[3-(piperidin-4-yl)-1H-1,2,4-triazol-5-yl]pyridine dihydrochloride as white solid.

reactant | tert-butyl 4-[5-(pyridin-2-yl)-1H-1,2,4-triazol-3-yl]piperidine-1-carboxylate | 111 mM, 39 g | N1=C(C=CC=C1)C1=NC(=NN1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23N5O2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(piperidin-4-yl)-1H-1,2,4-triazol-5-yl]pyridine dihydrochloride | Cl.Cl.N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1 | InChI=1S/C12H15N5.2ClH/c1-2-6-14-10(3-1)12-15-11(16-17-12)9-4-7-13-8-5-9;;/h1-3,6,9,13H,4-5,7-8H2,(H,15,16,17);2*1H
